US06300514B1
3-(4-bromophenylsulfonyl)propionic acid t-butyl ester
The mixture of 4-bromophenylsulfinic acid sodium salt (729 mg), 2-propenoic acid t-butyl ester (439 μl), 95% ethanol (4 ml) and acetic acid (372 μl) was stirred for 12 hours at room temperature. Further, 2-propenoic acid t-butyl ester (2.20 ml) was added to the mixture and it was refluxed for 4 hours. The reaction mixture was diluted with ethyl acetate. The mixture was washed with a saturated aqueous solution of sodium bicarbonate, a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated to give the title compound (872 mg) having the following physical data.

reactant | 4-bromophenylsulfinic acid sodium salt | 729 mg | [Na+].BrC1=CC=C(C=C1)S(=O)[O-]
reactant | 2-propenoic acid t-butyl ester | 439 μl | C(C)(C)(C)OC(C=C)=O | C7H12O2
reactant | ethanol | 4 ml | C(C)O | C2H6O
reactant | acetic acid | 372 μl | C(C)(=O)O | C2H4O2
reactant | 2-propenoic acid t-butyl ester | 2.20 ml | C(C)(C)(C)OC(C=C)=O | C7H12O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-bromophenylsulfonyl)propionic acid t-butyl ester | 872 mg | C(C)(C)(C)OC(CCS(=O)(=O)C1=CC=C(C=C1)Br)=O | C13H17BrO4S
